US08008307B2
Step a: (2R)-2-{[(1S)-3,3-Dimethyl-2,3-dihydro-1H-inden-1-yl]amino}-2-phenylethanol
To a solution of 3,3-dimethylindan-1-one (925 mg, 5.77 mmol) and (R)-(−)-2-phenylglycinol (893 mg, 6.51 mmol) in toluene (10.0 mL) was added p-toluenesulfonic acid monohydrate (62.5 mg, 0.328 mmol). The reaction was heated to reflux under an atmosphere of nitrogen for 90 min. At this point, the mixture was cooled and diluted with toluene (10.0 ml). The mixture was washed with saturated aqueous NaHCO3 solution and H2O. The organic layer was concentrated in vacuo and the residue was dissolved in THF (10.0 mL) and cooled to 0° C. AcOH (1.13 mL, 19.9 mmol) was added, followed by sodium borohydride (251 mg, 6.64 mmol) and the reaction was allowed to warm to 23° C. overnight. The mixture was partitioned between DCM and saturated aqueous NaHCO3 solution. The organic layer was concentrated and silica gel chromatography eluting with a gradient of 5 to 35% EtOAc in E)CM afforded the title compound (1.49 g, 74%). LC/MS: Rt=1.92 min, ES+ 282 (AA standard).

reactant | 3,3-dimethylindan-1-one | 5.77 mmol, 925 mg | CC1(CC(C2=CC=CC=C12)=O)C | C11H12O
reactant | (R)-(−)-2-phenylglycinol | 6.51 mmol, 893 mg | C1(=CC=CC=C1)[C@@H](N)CO | C8H11NO
reactant | AcOH | 19.9 mmol, 1.13 mL | CC(=O)O | C2H4O2
reactant | sodium borohydride | 6.64 mmol, 251 mg | [BH4-].[Na+]
solvent | toluene | 10.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10.0 ml | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 0.328 mmol, 62.5 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | (2R)-2-{[(1S)-3,3-Dimethyl-2,3-dihydro-1H-inden-1-yl]amino}-2-phenylethanol | 1.49 g, 74% | CC1(C[C@@H](C2=CC=CC=C12)N[C@@H](CO)C1=CC=CC=C1)C | C19H23NO
